US04883879
(1) 5-benzhydryloxy-2-hydroxymethyl-4-pyrone
14.2 g (0.1 mol) of kojic acid was added to ethanol (400 ml), and heated to 60° C. and dissolved. After cooling the solution to room temperature, 29.1 g (0.15 mol) of diphenyldiazomethane was added thereto, and the mixture was reacted at room temperature for 18 hours under stirring. The reaction solution was concentrated to dryness, and benzene (300 ml) was added thereto. Then, insolubles were removed by filtration. To the filtrate, water (300 ml) was added, and the precipitates thereby formed were collected by filtration, and washed with benzene to obtain 17.5 g (yield: 56.8%) of the above identified compound.

reactant | kojic acid | 0.1 mol, 14.2 g | C1=C(OC=C(C1=O)O)CO | C6H6O4
reactant | diphenyldiazomethane | 0.15 mol, 29.1 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 5-benzhydryloxy-2-hydroxymethyl-4-pyrone | yield: 56.8% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C(C=C(OC1)CO)=O | C19H16O4
